US04147780
5.8 parts of freshly distilled 3-carbomethoxypropionaldehyde in 10 parts of sodium-dried dioxan was added to a suspension of 12.4 parts benzhydrylammonium hypophosphite in 60 parts of sodium-dried dioxan at 100° and under nitrogen over 15 minutes. 40 Parts water/dioxan was removed by distillation during the addition such that the temperature remained at 100° or above. The resulting clear solution was cooled and diluted with an equal volume of alcohol to give DL-1-benzhydrylamino-3-carbomethoxypropanephosphonous acid, melting point 162°-164°.

reactant | 3-carbomethoxypropionaldehyde | C(=O)(OC)CCC=O | C5H8O3
reactant | sodium | [Na] | Na
reactant | benzhydrylammonium hypophosphite | [PH2](=O)[O-].C(C1=CC=CC=C1)(C1=CC=CC=C1)[NH3+]
product | 1-benzhydrylamino-3-carbomethoxypropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(CCC(=O)OC)P(O)O | C18H22NO4P
